US08389508B2
To a solution of 5-(3-bromo-1,2,4-thiadiazol-5-yl)-2-[(1-methylethyl)oxy]benzonitrile (D44) (630 mg), 2-{2-ethyl-3-[(E)-2-(methyloxy)ethenyl]phenyl}-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (560 mg) and tripotassium phosphate (1237 mg) in N,N-dimethylformamide (DMF) (5 mL) and water (1.25 mL) stirred under nitrogen was added Pd(Ph3P)4 (225 mg). The mixture was sealed and heated under microwave at 120° C. for 15 min. After cooling the reaction, the mixture was concentrated and purified by column chromatography to give 5-(3-{2-ethyl-3-[(E)-2-(methyloxy)ethenyl]phenyl}-1,2,4-thiadiazol-5-yl)-2-[(1-methylethyl)oxy]benzonitrile (D54) (670 mg) as a colorless oil. MS (ES): C23H23N3O2S requires 405. found 406.2 (M+H+).

reactant | 5-(3-bromo-1,2,4-thiadiazol-5-yl)-2-[(1-methylethyl)oxy]benzonitrile | 630 mg | BrC1=NSC(=N1)C=1C=CC(=C(C#N)C1)OC(C)C | C12H10BrN3OS
reactant | 2-{2-ethyl-3-[(E)-2-(methyloxy)ethenyl]phenyl}-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 560 mg | C(C)C1=C(C=CC=C1\C=C\OC)B1OC(C(O1)(C)C)(C)C | C17H25BO3
reactant | tripotassium phosphate | 1237 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 1.25 mL | O | H2O
catalyst | Pd(Ph3P)4 | 225 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-{2-ethyl-3-[(E)-2-(methyloxy)ethenyl]phenyl}-1,2,4-thiadiazol-5-yl)-2-[(1-methylethyl)oxy]benzonitrile | 670 mg | C(C)C1=C(C=CC=C1\C=C\OC)C1=NSC(=N1)C=1C=CC(=C(C#N)C1)OC(C)C | C23H23N3O2S
